US07705155B2
Synthesis of 1-ethyl-4-methoxy-1,3-dihydro-furo[3,4-c]pyridin-1-ol
To 10.52 mL triethylaluminum in toluene (1.9 M, 19.99 mmol, 1.1 eq) were added dropwise 39.97 mL ethyllithium in cyclohexane/benzene (0.5 M, 19.99 mmol, 1.1 eq) at 0° C. After 15 min at 0° C., 50.5 mL THF (precooled to −40° C.), were added rapidly via a canula. A solution of 3.0 g 4-methoxy-3H-furo[3,4-c]pyridin-1-one (18.17 mmol), as obtainable from example 15, in 75 mL THF was subsequently added rapidly at 40° C. After 10 min at −40° C., additional 39.97 mL ethyllithium in cyclohexane/benzene (0.5 M, 19.99 mmol, 1.1 eq) were added slowly. The mixture was allowed to warm up to −15° C. within 3 h and the reaction was afterwards quenched by addition of 3.68 mL methanol (100 mmol, 5 eq). After 30 min, the mixture was poured in 1.5 L saturated aqueous potassium sodium tartrate and was extracted three times with 500 mL, in total with 1.5 L dichloromethane. The combined organic phases were dried over 100 g Na2SO4 (30 min) and filtered. The solid was washed with 200 mL dichloromethane. After evaporation of solvent in a rotary evaporator (40° C./10 mbar), the crude product (3.77 g, 106% w/w) was obtained as a brown oil (HPLC purity 51.5% area), which was purified by column chromatography with heptane/ethyl acetate (7:3) yielding the title product (1.877 g, 9.61 mmol, 53% w/w ; HPLC purity 97.9% area; ratio lactol/hydroxy-ketone=6:1 by NMR) as yellow oil.

reactant | triethylaluminum | 10.52 mL | C(C)[Al](CC)CC
reactant | toluene | 19.99 mmol, 1.9 M, 1.1 eq | C1(=CC=CC=C1)C | C7H8
reactant | ethyllithium | 39.97 mL | C(C)[Li]
reactant | cyclohexane benzene | 19.99 mmol, 0.5 M, 1.1 eq | C1CCCCC1.C1=CC=CC=C1
reactant | 4-methoxy-3H-furo[3,4-c]pyridin-1-one | 18.17 mmol, 3.0 g | COC1=NC=CC2=C1COC2=O | C8H7NO3
reactant | ethyllithium | 39.97 mL | C(C)[Li]
reactant | cyclohexane benzene | 19.99 mmol, 0.5 M, 1.1 eq | C1CCCCC1.C1=CC=CC=C1
reactant | methanol | 100 mmol, 3.68 mL, 5 eq | CO | CH4O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | potassium sodium tartrate | 1.5 L | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 50.5 mL | C1CCOC1 | C4H8O
product | 1-ethyl-4-methoxy-1,3-dihydro-furo[3,4-c]pyridin-1-ol | 9.61 mmol, 1.877 g | C(C)C1(OCC=2C(=NC=CC21)OC)O | C10H13NO3
